US07417060B2
To a solution of methyl 4′-[2-[benzyl[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-nitro-4-biphenylcarboxylate (2.31 g) in methylene chloride (35 ml) were added dihydropyran (1.24 ml) and pyridinium p-toluenesulfonate (1.36 mg) and stirred overnight at room temperature. The mixture was poured into saturated sodium bicarbonate aqueous solution and extracted with ethyl acetate. The organic layer was washed with saturated sodium bicarbonate aqueous solution twice and brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=3/1) to give methyl 4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-amino]ethyl]-3-nitro-4-biphenylcarboxylate (1.48 g).

reactant | methyl 4′-[2-[benzyl[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-nitro-4-biphenylcarboxylate | 2.31 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)[N+](=O)[O-])C[C@@H](C1=CC=CC=C1)O | C31H30N2O5
reactant | dihydropyran | 1.24 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | 1.36 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
product | methyl 4′-[2-[benzyl[(2R)-2-phenyl-2-(tetrahydro-2H-pyran-2-yloxy)ethyl]-amino]ethyl]-3-nitro-4-biphenylcarboxylate | 1.48 g | C(C1=CC=CC=C1)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)[N+](=O)[O-])C[C@H](OC1OCCCC1)C1=CC=CC=C1 | C36H38N2O6
